US04499100
4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}-1-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperidine acetate (1.0 g) is dissolved in 50 ml 50% aqueous sulfuric acid, and the solution evaporated to dryness. The product is suspended in ethanol and filtered, air dried and recrystallized from methanol/acetone to yield 4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}-1-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperidine.2HSO4.

reactant | 4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}-1-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperidine acetate | 1.0 g | C(C)(=O)O.O1C(COC2=C1C=CC=C2)C(CNC2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)O
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}-1-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperidine | O1C(COC2=C1C=CC=C2)C(CNC2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)O | C25H33N3O4
